US09212187B2
Synthesis of 7-[4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)butyl]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
10% Palladium on carbon(0.52 g) was added to a methanol solution (50 ml) of 7-[4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)but-1-ynyl]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(2.2 g). The mixture was subjected to catalytic reduction at room temperature under normal pressure. The catalyst was removed by celite filtration, followed by concentration under reduced pressure to give the title compound(1.93 g) as a brown solid.

reactant | 7-[4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)but-1-ynyl]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 2.2 g | O=C1N(C(C2=CC=CC=C12)=O)CCC#CC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C26H25N3O4
catalyst | Palladium on carbon | 0.52 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 7-[4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)butyl]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 1.93 g | O=C1N(C(C2=CC=CC=C12)=O)CCCCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C26H29N3O4
